US07947714B2
A solution of tert-butyl 4-cyano-4-cyclopropylmethylpiperidine-1-carboxylate (I-2) (1.00 g, 3.78 mmol) in TFA (50 mL) and DCM (75 mL) was stirred at room temperature for 0.5 h then the volatile components removed in vacuo. The residue was partitioned between saturated sodium bicarbonate solution and DCM. The organic phase was separated and the aqueous phase re-extracted with DCM twice. The combined organic phase was washed with brine, dried (MgSO4) and the solvent removed in vacuo to leave 4-cyano-4-cyclopropylmethylpiperidine (I-8) as a glass. 1H NMR (500 MHz, CD3OD): δ 3.03 (d, J=13.1 Hz, 2 H), 2.88-2.82 (m, 2 H), 2.00 (d, J=11.7 Hz, 2 H), 1.55-1.49 (m, 4 H), 0.92-0.84 (m, 1 H), 0.57-0.55 (m, 2 H), 0.20 (q, J=5.0 Hz, 2 H).

reactant | tert-butyl 4-cyano-4-cyclopropylmethylpiperidine-1-carboxylate | 3.78 mmol, 1.00 g | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1CC1 | C15H24N2O2
solvent | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 4-cyano-4-cyclopropylmethylpiperidine | C(#N)C1(CCNCC1)CC1CC1 | C10H16N2
